Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][CH2:2][N:3]1[S:4](=[O:5])(=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]3[cH:12][cH:13][cH:14][c:15]1[c:16]23.[CH:17]1=[C:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][NH:27][CH2:28]1>>[CH2:1]([CH2:2][N:3]1[S:4](=[O:5])(=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]3[cH:12][cH:13][cH:14][c:15]1[c:16]23)[N:27]1[CH2:26][CH2:25][C:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)=[CH:17][CH2:28]1,[Cl:101][CH2:1][CH2:2][N:3]1[S:4](=[O:5])(=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]3[cH:12][cH:13][cH:14][c:15]1[c:16]23.[CH:17]1=[C:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][NH:27][CH2:28]1>>[CH2:1]([CH2:2][N:3]1[S:4](=[O:5])(=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]3[cH:12][cH:13][cH:14][c:15]1[c:16]23)[N:27]1[CH2:26][CH2:25][C:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)=[CH:17][CH2:28]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[c:2]([F:3])[cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[c:10]([F:11])[cH:12]1.[CH3:13][C@@H:14]([CH2:15][OH:16])[O:17][c:18]1[cH:19][c:20]([OH:21])[cH:22][c:23]([C:24](=[O:25])[NH:26][c:27]2[cH:28][cH:29][n:30]([CH3:31])[n:32]2)[cH:33]1>>[c:1]1([O:21][c:20]2[cH:19][c:18]([O:17][C@@H:14]([CH3:13])[CH2:15][OH:16])[cH:33][c:23]([C:24](=[O:25])[NH:26][c:27]3[cH:28][cH:29][n:30]([CH3:31])[n:32]3)[cH:22]2)[c:2]([F:3])[cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[c:10]([F:11])[cH:12]1,[CH3:13][C@@H:14]([CH2:15][OH:16])[O:17][c:18]1[cH:19][c:20]([OH:21])[cH:22][c:23]([C:24](=[O:25])[NH:26][c:27]2[cH:28][cH:29][n:30]([CH3:31])[n:32]2)[cH:33]1.[F:101][c:1]1[c:2]([F:3])[cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[c:10]([F:11])[cH:12]1.[H-:301].[Na+]>>[c:1]1([O:21][c:20]2[cH:19][c:18]([O:17][C@@H:14]([CH3:13])[CH2:15][OH:16])[cH:33][c:23]([C:24](=[O:25])[NH:26][c:27]3[cH:28][cH:29][n:30]([CH3:31])[n:32]3)[cH:22]2)[c:2]([F:3])[cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[c:10]([F:11])[cH:12]1,SNAr_alco(thi)ol(para),"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 12], [12, 10]), ([10, 5], [5, 6]), ([6, 8], 8), (8, [8, 6]), ([6, 5], [5, 10]), ([10, 12], [12, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[c:4]([F:5])[c:6]([F:7])[cH:8][c:9]2[cH:10][cH:11][nH:12][c:13]12.[CH3:14][C:15]([CH3:16])([CH3:17])[c:18]1[cH:19][cH:20][c:21]([CH2:22][NH:23][CH2:24][CH2:25][c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:32][cH:33]1>>[C:1](=[O:2])([c:3]1[c:4]([F:5])[c:6]([F:7])[cH:8][c:9]2[cH:10][cH:11][nH:12][c:13]12)[N:23]([CH2:22][c:21]1[cH:20][cH:19][c:18]([C:15]([CH3:14])([CH3:16])[CH3:17])[cH:33][cH:32]1)[CH2:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,[CH3:14][C:15]([CH3:16])([CH3:17])[c:18]1[cH:19][cH:20][c:21]([CH2:22][NH:23][CH2:24][CH2:25][c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:32][cH:33]1.[OH:101][C:1](=[O:2])[c:3]1[c:4]([F:5])[c:6]([F:7])[cH:8][c:9]2[cH:10][cH:11][nH:12][c:13]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[c:4]([F:5])[c:6]([F:7])[cH:8][c:9]2[cH:10][cH:11][nH:12][c:13]12)[N:23]([CH2:22][c:21]1[cH:20][cH:19][c:18]([C:15]([CH3:14])([CH3:16])[CH3:17])[cH:33][cH:32]1)[CH2:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (23, 1), ([1, 2], 2), (303, 23.1), ([23.1, 23], 23), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:7][cH:6][cH:5][cH:4][cH:3]1.[CH3:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24][CH2:25][O:26][c:27]1[cH:28][cH:29][c:30]([OH:31])[c:32]([C:33](=[O:34])[O:35][CH3:36])[cH:37]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:31][c:30]1[cH:29][cH:28][c:27]([O:26][CH2:25][CH2:24][CH2:23][CH2:22][CH2:21][CH2:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH3:8])[cH:37][c:32]1[C:33](=[O:34])[O:35][CH3:36],[CH3:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24][CH2:25][O:26][c:27]1[cH:28][cH:29][c:30]([OH:31])[c:32]([C:33](=[O:34])[O:35][CH3:36])[cH:37]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:31][c:30]1[cH:29][cH:28][c:27]([O:26][CH2:25][CH2:24][CH2:23][CH2:22][CH2:21][CH2:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH3:8])[cH:37][c:32]1[C:33](=[O:34])[O:35][CH3:36],SN2_alcohol(thiol),"[(301, 31.1), ([31.1, 31], 31), (31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
